US05270309
3,4,5-Trichloroaniline (25 g, 0.127 mol) and dimethylacetylene dicarboxylate (10.9 ml, 0.12 mol) were dissolved in dry methanol (300 ml) at 0° C. then heated at reflux for 14 h. The mixture was allowed to cool, then diluted with hexane (200 ml) and the yellow solid which precipated was collected by filtration and heated in diphenyl ether (200 ml) at 240° C. for 10 minutes. The reaction mixture was allowed to cool to room temperature and diluted with hexane. The solid which deposited was collected and recrystallised from acetone (500 ml) to give methyl 5,6,7-trichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate (11.91 g), m.p. 295°-296° C. (decomp), δ (360 MHz, DMSO-d6) 3.96 (3H, s, CH3), 6.63 (1H, s, 3-H) and 8.17 (1H, s, 8-H) (Found C, 43.09; H, 1.70; N, 4.47%, C11H16NO3Cl3 requires C, 43.10; H, 1.97; N, 4.57%).

reactant | 3,4,5-Trichloroaniline | 0.127 mol, 25 g | ClC=1C=C(N)C=C(C1Cl)Cl | C6H4Cl3N
reactant | dimethylacetylene dicarboxylate | 0.12 mol, 10.9 ml | COC(=O)C#CC(=O)OC | C6H6O4
solvent | methanol | 300 ml | CO | CH4O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | methyl 5,6,7-trichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 11.91 g | ClC1=C2C(C=C(NC2=CC(=C1Cl)Cl)C(=O)OC)=O | C11H6Cl3NO3
